US04810699
Step 3. Preparation of 3-Chloro-2-(2,2,2-trifluoroethoxy)phenylhydrazine Hydrochloride
A mixture of 3-chloro-2-(2,2,2-trifluoroethoxy)aniline hydrochloride (20 g, 77 mmol), concentrated HCl (50 mL), and H2O (30 mL) was cooled to -10° C. Sodium nitrite (10.7 g, 155 mmol) dissolved in H2O (30 mL) was added dropwise at a rate to maintain the temperature below -5° C. The solution was stirred for an additional 30 minutes. At the end of this time SnCl2.2H2O (65 g, 289 mmol) in 125 mL of 6N HCl was added dropwise over 1 hour at 0° C. When addition was complete the mixture was allowed to warm to room temperature and stirred an additional 18 hours. The reaction was cooled to -5° C. and 50% NaOH solution was added slowly to pH=13. This alkaline solution was extracted with EtOAc (3×500 mL), and the combined organic layers were washed with brine (2×500 mL), dried (MgSO4), and concentrated to yield an orange oil. This residue was dissolved in 100 mL Et2O and saturated with HCl gas, which resulted in a turbid solution. After the addition of hexane (~10 volumes) and cooling, the 3-chloro-2-(2,2,2-trifluoroethoxy)phenylhydrazine hydrochloride 17.1 g (86%) was collected by filtration as a tan solid, m.p. 158°-165° C.

reactant | 3-chloro-2-(2,2,2-trifluoroethoxy)aniline hydrochloride | 77 mmol, 20 g | Cl.ClC=1C(=C(N)C=CC1)OCC(F)(F)F
reactant | Sodium nitrite | 155 mmol, 10.7 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 289 mmol, 65 g | O.O.Cl[Sn]Cl
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 30 mL | O | H2O
solvent | HCl | 6N, 125 mL | Cl | ClH
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | H2O | 30 mL | O | H2O
solvent | HCl | 50 mL | Cl | ClH
solvent | hexane | CCCCCC | C6H14
product | 3-Chloro-2-(2,2,2-trifluoroethoxy)phenylhydrazine Hydrochloride | Cl.ClC=1C(=C(C=CC1)NN)OCC(F)(F)F | InChI=1S/C8H8ClF3N2O.ClH/c9-5-2-1-3-6(14-13)7(5)15-4-8(10,11)12;/h1-3,14H,4,13H2;1H
